US04766115
starting from 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile and n-butanol there is obtained butyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as a resinous product, 1H-NMR(CDCl3): 1.02 (t, CH2CH3), 1.4-2.0 (4H), 4.15 (t, OCH2), 4.27 (s, 4H), 4.57 (broad s, NH), 7.3-7.7 (8H);

reactant | 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C#N | C15H12N2
reactant | n-butanol | C(CCC)O | C4H10O
product | butyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCCCC)=N | C19H22N2O
